US04950667
2-Chloro-N-[2-[(4-methylphenyl)amino]phenyl]acetamide which had been synthesized from N-(4-methylphenyl)-1,2-benzenediamine by substantially the same manner as described in Reference Example 1 and 4-aminopyridine were dissolved in chloroform and the solution was left on standing under stirring at room temperature overnight, whereby the reaction was completed. The resulting precipitates were collected by filtration and recrystallized from ethanol to give N-[2-[(4-methylphenyl)amino]phenyl]-2-[(4-pyridinyl)amino]-acetamide hydrochloride.

reactant | 2-Chloro-N-[2-[(4-methylphenyl)amino]phenyl]acetamide | ClCC(=O)NC1=C(C=CC=C1)NC1=CC=C(C=C1)C | C15H15ClN2O
reactant | N-(4-methylphenyl)-1,2-benzenediamine | CC1=CC=C(C=C1)NC=1C(=CC=CC1)N | C13H14N2
reactant | 4-aminopyridine | NC1=CC=NC=C1 | C5H6N2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-[2-[(4-methylphenyl)amino]phenyl]-2-[(4-pyridinyl)amino]-acetamide hydrochloride | Cl.CC1=CC=C(C=C1)NC1=C(C=CC=C1)NC(CNC1=CC=NC=C1)=O | InChI=1S/C20H20N4O.ClH/c1-15-6-8-17(9-7-15)23-18-4-2-3-5-19(18)24-20(25)14-22-16-10-12-21-13-11-16;/h2-13,23H,14H2,1H3,(H,21,22)(H,24,25);1H
